US06087380
f) 2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazole-5-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide
1.1 g (2.27 mMol) of 2-[N-(4-cyanophenyl)-aminomethyl]-benzothiazole-5-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide was stirred in 100 ml of ethanol saturated with hydrogen chloride for 5 hours first at 0° C. and then at room temperature until no more starting material could be detected by thin layer chromatography. Then the solvent was distilled off at a maximum bath temperature of 30° C. and the oily residue was taken up in 100 ml of absolute ethanol and mixed with 1.6 g (22 mMol) of ammonium carbonate. After 18 hours stirring at room temperature the solvent was distilled off in vacuo and the crude product was purified by flash chromatography (silica gel; gradient: water/methanol=19:1 to 4:1). When the eluates are evaporated down the desired compound is obtained as a white foam. Yield: 0.77 g (63% of theory), Rf value: 0.19 (silica gel; dichloromethane/ethanol=3:7) C27H27N5O3S (501.60) Mass spectrum: (M+H)+ =502

reactant | 2-[N-(4-cyanophenyl)-aminomethyl]-benzothiazole-5-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | 2.27 mMol, 1.1 g | C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CNC2=CC=C(C=C2)C#N)C1)CCC(=O)OCC | C27H24N4O3S
reactant | hydrogen chloride | Cl | ClH
reactant | ammonium carbonate | 22 mMol, 1.6 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazole-5-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CNC2=CC=C(C=C2)C(N)=N)C1)CCC(=O)OCC | C27H27N5O3S
